US09079866B2
1-({[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]methyl}sulfonyl)azetidin-3-ol formic acid salt
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-((2-bromobenzyl)sulfonyl)azetidin-3-ol. MS (ESI): mass calcd. for C20H19FN4O3S, 414.12; m/z found, 414.9 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.43-8.38 (m, 1H), 8.08 (d, J=1.5, 1H), 7.95 (m, 1H), 7.68-7.60 (m, 1H), 7.49-7.41 (m, 2H), 7.39-7.28 (m, 3H), 4.45-4.36 (m, 3H), 3.79-3.70 (m, 2H), 3.67-3.59 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromobenzyl)sulfonyl)azetidin-3-ol | BrC1=C(CS(=O)(=O)N2CC(C2)O)C=CC=C1 | C10H12BrNO3S
product | 1-({[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]methyl}sulfonyl)azetidin-3-ol formic acid salt | C(=O)O.NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)CS(=O)(=O)N1CC(C1)O)F | InChI=1S/C20H19FN4O3S.CH2O2/c21-18-7-13(5-6-17(18)19-8-24-20(22)9-23-19)16-4-2-1-3-14(16)12-29(27,28)25-10-15(26)11-25;2-1-3/h1-9,15,26H,10-12H2,(H2,22,24);1H,(H,2,3)
